US07709510B2
3-(2-mercapto-1,3-benzothiazol-6-yl)-2-thioxoimidazolidin-4-one (Table 5, Entry 1)
Into a 13×100 mm screw cap Pyrex® vial were added 6-amino-1,3-benzothiazole-2-thiol (108 mg, 0.59 mmol), methyl-2-isothiocyanatoacetate (94.8 mg, 0.72 mmol), and pyridine (2 ml). The vial was purged with Ar, capped, and shaken in an oven at 60° C. for 8 h. The solution was concentrated, and the residue was triturated with Et2O to give a rusty brown powder (59 mg, 35%). 1H NMR (DMSO-d6) δ=4.27 (s, 2H), 7.26 (d, 1H), 7.35 (d, 1H), 7.61 (s, 1H), 10.40 (s, 1H), 13.86 (br s, 1H); ESIMS: m/z 280 (M−H); mp>266° C.

reactant | 6-amino-1,3-benzothiazole-2-thiol | 0.59 mmol, 108 mg | NC1=CC2=C(N=C(S2)S)C=C1 | C7H6N2S2
reactant | methyl-2-isothiocyanatoacetate | 0.72 mmol, 94.8 mg | COC(CN=C=S)=O | C4H5NO2S
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2-mercapto-1,3-benzothiazol-6-yl)-2-thioxoimidazolidin-4-one | 59 mg, 35% | SC=1SC2=C(N1)C=CC(=C2)N2C(NCC2=O)=S | C10H7N3OS3
